datasets/10k_Mayr_OG.csv
SMILES Labelled
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N3CCOCC3)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[Si:63]1(C)CCC[CH:11]([H:10])[CH2:62]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21](C[N+]2=CC=C(N3CCOCC3)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1.C[Si:63]1(C)CCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"[CH:10](=[C:11]1\[CH:12]=[CH:13]/[C:14](=[N+:15](/[O-:16])[O-:86])[CH:63]=[CH:62]1)\[C:71]#[N:72].[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([CH:10]([C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:86])[CH:63]=[CH:62]2)[C:71]#[N:72])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)[O-:23] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16;20,21=21,22;22,23=23"
CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10][C@@H]1C1=CC=CC=C1.C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC(C)[C@@H]1C[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[C@@H]1C1=CC=CC=C1 10=20
"Br[C:12]1=[C:13]([NH2:14])[C:62](Br)=[CH:63][N:10]=[CH:11]1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[CH:11]=[C:12](Br)[C:13](=[NH2+:14])[C:62](Br)=[CH:63]2)[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C1CC[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1.[C:10](=[N+:11]=[N-:12])([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>C1CC[N:23]([CH:22]=[CH:21][CH:20]([C:10]([N+:11]#[N:12])([C:72]2=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]2)[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1.[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([CH:10]2CCC[C:11]2=[N+:12]2CCCCC2)N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11]1=[CH:10]C2=C(C=CC=C2)[N:12]1C.[CH+:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C:11]1=[N+:12](C)C2=C(C=CC=C2)[CH:10]1[CH:20]1[CH:31]=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12"
"C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[H:10][C:11]([C:12]1=[CH:13][CH:14]=[CH:15][CH:64]=[CH:63]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>C[C:20](C)([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.[C:11](=[C:12]1[CH:13]=[CH:14][CH+:15][CH:64]=[CH:63]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1 10,11=10,20;12,13=11,12;14,15=13,14"
CC[O:92][C:61]([C-:10](C)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:92][C:61]([C:10](C)([C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20
"C1C[N:10]=[C:11]2[N:12](C1)CCC[NH:62]2.N#C[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:23]([N+:24]([O-])=[O:25])=[CH:22]1>>N#C[C:21]1=[CH:22][C:23](=[N+:24]([O-])[O-:25])[C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]1[N:10]1CCC[N+:12]2=[C:11]1[NH:62]CCC2 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CO[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CO[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH2:20][CH:21]=[C:22]([O-:23])[O:33]C)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH:11]=[CH2:10])OC1(C)C.CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CN1C=C[N+](C2=C(F)C(F)=C(F)C(F)=C2F)=C1[C:22](=[CH:21][CH:20]([CH2:10][CH+:11][CH2:62][B-:63]1(C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)OC(C)(C)C(C)(C)O1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;20,21=21,22;22,23=23"
"CC[Si:11](CC)(CC)[H:10].COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1>>CC[Si+:11](CC)CC.COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([H:10])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10,11=10,20;20,21=21,22;22,23=23"
